US05556909
To a stirring mixture of 4-chlorobenzaldehyde (42.2 g, 0.3 mol), DL-alanine methyl ester hydrochloride (42.7 g, 0.306 mol), and 150 g of magnesium sulfate in 1 L of methylene chloride was added 30.3 g (0.3 mol) of triethylamine in 150 ml of methylene chloride in one portion and the resulting mixture was stirred for 20 hours. The reaction mixture was filtered, the filtrate concentrated in vacuo, and the residue (solid and oil) was dissolved in 500 ml of ether. The insoluble solid (triethylamine hydrochloride) was removed by filtration and the filtrate was concentrated in vacuo to afford 64.01 g (94.6%) of N-(4-chlorophenyl)methylene-DL-alanine methyl ester as a yellow oil.

reactant | 4-chlorobenzaldehyde | 0.3 mol, 42.2 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | DL-alanine methyl ester hydrochloride | 0.306 mol, 42.7 g | Cl.COC(C(N)C)=O
reactant | magnesium sulfate | 150 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | triethylamine | 0.3 mol, 30.3 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N-(4-chlorophenyl)methylene-DL-alanine methyl ester | 64.01 g, 94.6% | COC(C(N=CC1=CC=C(C=C1)Cl)C)=O | C11H12ClNO2
